US04266060
(A) 2-methyl-3-acetylamino-benzaldehyde of formula (11)
39g (0.3 mole) of 2-methyl-3-amino-benzonitrile were dissolved in 75 ml of acetic acid, 30 ml (0.3 mole) of acetic anhydride were added, the mixture was heated with reflux for 5 minutes, and cooled. The solid obtained was filtered off and the evaporation of the solent furnished an additional quantity of solid which was added to the preceding one. After recrystallisation of the whole from toluene, 44 g (95%) of colorless flakes were obtained, with a melting point of 160° C. l

reactant | 2-methyl-3-amino-benzonitrile | CC1=C(C#N)C=CC=C1N | C8H8N2
reactant | acetic anhydride | 0.3 mole, 30 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | 2-methyl-3-acetylamino-benzaldehyde | CC1=C(C=O)C=CC=C1NC(C)=O | C10H11NO2
